US05763489
A suspension of (1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methyl N,N-diphenylcarbamate (1.93 g) and DL-methionine (7.43 g) in methanesulfonic acid (47.9 ml) was stirred at room temperature for 22 hours, then poured into ice water. The resulting mixture was extracted with ethyl acetate. The extract was washed successively with brine (twice), aqueous sodium bicarbonate and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed (toluene-ethyl acetate) over silica gel to afford (1,2,3,4-tetrahydro-5-hydroxy-2-naphthyl)methyl N,N-diphenylcarbamate (82 mg) as yellow solids. mp: 96°-98° C.

reactant | (1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methyl N,N-diphenylcarbamate | 1.93 g | C1(=CC=CC=C1)N(C(OCC1CC2=CC=CC(=C2CC1)OC)=O)C1=CC=CC=C1 | C25H25NO3
reactant | DL-methionine | 7.43 g | NC(CCSC)C(=O)O | C5H11NO2S
solvent | methanesulfonic acid | 47.9 ml | CS(=O)(=O)O | CH4O3S
product | (1,2,3,4-tetrahydro-5-hydroxy-2-naphthyl)methyl N,N-diphenylcarbamate | 82 mg | C1(=CC=CC=C1)N(C(OCC1CC2=CC=CC(=C2CC1)O)=O)C1=CC=CC=C1 | C24H23NO3
